US09376429B2
Preparation of 3-cyano-4-((4,6-di(furan-3-yl)pyridin-3-yl)oxy)-N-(thiazol-2-yl)benzenesulfonamide
20.0 mg of 4,6-di(furan-3-yl)pyridin-3-ol and 24.9 mg of 3-cyano-4-fluoro-N-(thiazol-2-yl)benzenesulfonamide were dissolved in DMF, and 86.0 mg (3.0 eq) of Cs2CO3(86.0 mg, 3.0 eq) was added thereto. After reacting at room temperature for 2 hours, the resulting mixture was reacted at 60° C. for 16 hours. The solvent was removed by concentrating under reduced pressure. AS work-up with EA/H2O, the ethyl acetate layer was treated with magnesium sulfate, and concentrated under reduced pressure. The residue was separated by PLC (developing solvent, EA:n-Hex=1:4) to obtain 10.1 mg (24% yield) of the title compound.

reactant | 4,6-di(furan-3-yl)pyridin-3-ol | 20.0 mg | O1C=C(C=C1)C1=C(C=NC(=C1)C1=COC=C1)O | C13H9NO3
reactant | 3-cyano-4-fluoro-N-(thiazol-2-yl)benzenesulfonamide | 24.9 mg | C(#N)C=1C=C(C=CC1F)S(=O)(=O)NC=1SC=CN1 | C10H6FN3O2S2
reactant | Cs2CO3 | 86.0 mg, 3.0 eq | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | CN(C)C=O | C3H7NO
product | 3-cyano-4-((4,6-di(furan-3-yl)pyridin-3-yl)oxy)-N-(thiazol-2-yl)benzenesulfonamide | 10.1 mg, 24% yield | C(#N)C=1C=C(C=CC1OC=1C=NC(=CC1C1=COC=C1)C1=COC=C1)S(=O)(=O)NC=1SC=CN1 | C23H14N4O5S2
